US05455273
trans-N-(4-Chlorobenzoyl)-N-ethyl-4-phenylcyclohexylamine
1 g of trans-N-(4-chlorobenzoyl)-4-phenylcyclohexylamine in 20 ml of dimethylformamide are mixed with 0.14 g of 55% sodium hydride and after 15 minutes 0.62 g of ethyliodide are added. After 1 hour at ambient temperature the reaction solution is evaporated down, the residue is taken up in water, extracted with ethyl acetate and the organic phase is dried and evaporated down. After purification by column chromatography (silica gel, petroleum ether/ethyl acetate=4:1 to 3:1, v:v), 0.73 g of the title compound are obtained, melting point 127°-129° C.

reactant | trans-N-(4-chlorobenzoyl)-4-phenylcyclohexylamine | 1 g | ClC1=CC=C(C(=O)N[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C19H20ClNO
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | ethyliodide | 0.62 g | C(C)I | C2H5I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | trans-N-(4-Chlorobenzoyl)-N-ethyl-4-phenylcyclohexylamine | ClC1=CC=C(C(=O)N(CC)[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C21H24ClNO
